US07741364B2
1-ethanesulfonyl-3-nitro-benzene
Potassium nitrate (4.46 g, 44.12 mmol) was added portion wise to a solution of ethylphenyl sulfone in concentrated HCl (25 mL) at room temperature; then the mixture was heated to reflux for one hour. After cooling, the mixture was poured onto ice and the precipitate was collected by filtration. The solid was washed with cold water (2×50 mL) and dried. 1H NMR (CDCl3) δ ppm 1.28 (3H), 3.45 (2H), 7.80 (1H), 8.21 (1H), 8.30 (1H), 8.85 (1H); MS (DCI) m/z 216 (M+H).

reactant | Potassium nitrate | 44.12 mmol, 4.46 g | [N+](=O)([O-])[O-].[K+]
reactant | ethylphenyl sulfone | C(C)S(=O)(=O)C1=CC=CC=C1 | C8H10O2S
solvent | HCl | 25 mL | Cl | ClH
product | 1-ethanesulfonyl-3-nitro-benzene | C(C)S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H9NO4S
